US06768016B2
The present invention provides a process for isolating, from outer birch bark, at least one of 9,10-epoxy- 18-hydroxyoctadecanoic acid; 9,16-dihydroxyhexadecanoic acid; 9,10,18-trihydroxyoctadecanoic acid (phloionolic acid); 20-hydroxyeicasanoic acid; 22-hydroxydocosanoic acid; 18-hydroxyoctadec-9-enoic acid; docosandioic acid; and octadec-9-enedioic acid; comprising: (1) subjecting the outer birch bark to hydrolysis to provide a second outer birch bark and a second solution; (2) separating the second solution from the second outer birch bark; (3) condensing the second solution at a temperature below about 50° C. to provide at least one of 9,10-epoxy-18-hydroxyoctadecanoic acid; 9,16-dihydroxyhexadecanoic acid; 9,10,18-trihydroxyoctadecanoic acid (phloionolic acid); 20-hydroxyeicasanoic acid; 22-hydroxydocosanoic acid; 18-hydroxyoctadec-9-enoic acid; docosandioic acid; and octadec-9-enedioic acid.

reactant | 9,16-dihydroxyhexadecanoic acid | OC(CCCCCCCC(=O)O)CCCCCCCO | C16H32O4
reactant | 9,10,18-trihydroxyoctadecanoic acid | OC(CCCCCCCC(=O)O)C(CCCCCCCCO)O | C18H36O5
reactant | 22-hydroxydocosanoic acid | OCCCCCCCCCCCCCCCCCCCCCC(=O)O | C22H44O3
reactant | 18-hydroxyoctadec-9-enoic acid | OCCCCCCCCC=CCCCCCCCC(=O)O | C18H34O3
reactant | docosandioic acid | C(CCCCCCCCCCCCCCCCCCCCC(=O)O)(=O)O | C22H42O4
reactant | octadec-9-enedioic acid | C(CCCCCCCC=CCCCCCCCC(=O)O)(=O)O | C18H32O4
product | 9,10-epoxy-18-hydroxyoctadecanoic acid | O1C(CCCCCCCC(=O)O)C1CCCCCCCCO | C18H34O4
